US08975254B2
(S)—N4-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-N2,N2-dimethylthiazole-2,4-dicarboxamide was prepared using the method of Example 34(d) starting from (S)-4-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)thiazole-2-carboxylic acid (0.2 g, 0.428 mmol) and dimethylamine hydrochloride (0.029 g, 0.357 mmol). The product was purified by Flash-chromatography. Yield 23.42%. 1H-NMR (400 MHz; DMSO-d6): δ 1.18 (d, 3H), 3.05 (s, 3H), 3.45 (s, 3H), 4.37 (m, 2H), 4.46 (m, 1H), 6.94 (d, 1H), 7.84 (d, 1H), 7.89 (dd, 1H), 7.95 (d, 1H), 8.04 (d, 1H), 8.30 (d, 1H), 8.43 (s, 1H).

reactant | (S)-4-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)thiazole-2-carboxylic acid | 0.428 mmol, 0.2 g | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C(=O)O | C18H14ClN5O3S
reactant | dimethylamine hydrochloride | 0.357 mmol, 0.029 g | Cl.CNC
product | (S)—N4-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-N2,N2-dimethylthiazole-2,4-dicarboxamide | Yield 23.42% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C(=O)N(C)C | C20H19ClN6O2S
